US08703941B2
Sodium hydride (220 mg, 9.17 mmol, 3.46 equiv) was added to a solution of tert-butyl N-[4-([5,6-dimethylthieno[2,3-d]pyrimidin-4-yl]oxy)cyclohexyl]carbamate (1.0 g, 2.65 mmol, 1.00 equiv) in N,N-dimethylformamide (15 mL) in several batches at 0° C. and the reaction mixture was stirred for 30 min. To this reaction mixture was added iodomethane (450 mg, 3.17 mmol, 1.20 equiv) dropwise at room temperature. The reaction mixture was stirred for 1 h at 30° C. and then quenched by the addition of 5 mL of water. The resulting solution was diluted with 50 mL of water, extracted with 2×50 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 2×50 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum to give 0.6 g (58%) of tert-butyl N-[4-([5,6-dimethylthieno[2,3-d]pyrimidin-4-yl]oxy)cyclohexyl]-N-methylcarbamate as a brown solid.

reactant | Sodium hydride | 9.17 mmol, 220 mg, 3.46 equiv | [H-].[Na+]
reactant | tert-butyl N-[4-([5,6-dimethylthieno[2,3-d]pyrimidin-4-yl]oxy)cyclohexyl]carbamate | 2.65 mmol, 1.0 g, 1.00 equiv | CC1=C(SC=2N=CN=C(C21)OC2CCC(CC2)NC(OC(C)(C)C)=O)C | C19H27N3O3S
reactant | iodomethane | 3.17 mmol, 450 mg, 1.20 equiv | IC | CH3I
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | tert-butyl N-[4-([5,6-dimethylthieno[2,3-d]pyrimidin-4-yl]oxy)cyclohexyl]-N-methylcarbamate | 0.6 g, 58% | CC1=C(SC=2N=CN=C(C21)OC2CCC(CC2)N(C(OC(C)(C)C)=O)C)C | C20H29N3O3S
